US08431569B2
Step 3. (7R,8R)-7-Methyl-1,4-dioxaspiro[4.5]decan-8-amine
A mixture of (7R,8R)—N-benzyl-7-methyl-1,4-dioxaspiro[4.5]decan-8-amine (640 mg, 2.4 mmol) and Pd/C (10%, 52 mg) in MeOH (50 mL) was left to stir under H2 (1 atm) overnight. The mixture was filtered through celite, and concentrated to afford the title compound. 1H NMR (600 MHz, CDCl3) δ 3.91 (m, 4H); 1.15-2.12 (series of m, 7H); 0.96 (d, 3H).

reactant | (7R,8R)—N-benzyl-7-methyl-1,4-dioxaspiro[4.5]decan-8-amine | 2.4 mmol, 640 mg | C(C1=CC=CC=C1)N[C@H]1[C@@H](CC2(OCCO2)CC1)C | C16H23NO2
solvent | MeOH | 50 mL | CO | CH4O
catalyst | Pd/C | 52 mg | [Pd] | Pd
product | (7R,8R)-7-Methyl-1,4-dioxaspiro[4.5]decan-8-amine | C[C@@H]1CC2(OCCO2)CC[C@H]1N | C9H17NO2
